US07135475B2
2-Acetamino-N-{4-[3-cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-4,6,N-trimethyl-nicotinamide
This compound was prepared by a method similar to that described in example 79 except that 2-acetylamino-4,6-dimethylnicotinic acid was used in place of N-acetyl-6-amino-2-pyridine carboxylic acid, the reaction was performed using 1 equivalent of 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione and excess triethyl amine and a catalytic amount of 4-dimethylaminopyridine were added as the final reagents to the reaction mixture. The product was purified by chromatography using silica gel eluted with 93:7 chloroform/methanol. MS, m/z(M+)=624.4 and m/z(M−)=622.5.

reactant | 2-acetylamino-4,6-dimethylnicotinic acid | C(C)(=O)NC1=C(C(=O)O)C(=CC(=N1)C)C | C10H12N2O3
reactant | 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione | 1 equivalent | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 2-Acetamino-N-{4-[3-cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-4,6,N-trimethyl-nicotinamide | N(C(=O)C)C1=C(C(=O)N(C)C2=CC=C(C=C2)CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CC2CC2)C(=CC(=N1)C)C | C34H34FN7O4
